US07981903B2
A solution of 2-({2-{[(2S)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (216 mg, 0.315 mmol) in dioxane (5 mL) and a 2M aqueous NaOH solution (10 mL) was heated at 80° C. for 5 h. The resulting mixture was allowed to cool to rt, diluted with EtOAc (50 mL) and a saturated NaCl solution (10 mL). The organic layer was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to afford 2-[(2-{[(2S)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide as a yellow solid (106 mg, 63%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.26 (d, J=5.49 Hz, 3H), 2.27 (s, 6H), 2.60 (d, J=15.57 Hz, 1H), 3.09 (d, J=14.28 Hz, 1H), 3.25-3.50 (m, 2H), 3.80 (s, 3H), 4.71-4.86 (m, 1H), 6.24 (dd, J=3.11, 1.65 Hz, 1H), 6.89 (t, J=9.25 Hz, 1H), 6.98 (s, 2H), 7.25-7.43 (m, 1H), 7.57 (s, 1H), 8.03 (s, 1H), 8.10 (s, 1H), 8.49 (d, J=8.24 Hz, 1H), 8.63 (s, 1H), 10.53 (s, 1H), 11.33 (s, 1H); ESIMS (M+H)+=533.36; Optical rotation −13.1 (1 mg/mL MeOH, rt).

reactant | 2-({2-{[(2S)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.315 mmol, 216 mg | CN(CC(=O)N1[C@H](CC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C)C | C34H35FN8O5S
reactant | NaOH | 2M, 10 mL | [OH-].[Na+]
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-{[(2S)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 106 mg, 63% | CN(CC(=O)N1[C@H](CC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C(=CC=C2)F)OC)C)C | C27H29FN8O3
